US06759429B2
To a suspension of 4-nitro-1,2-phenylenediamine (10.0 g) in water (150 mL) was added dropwise a 40% aqueous solution of pyruvic aldehyde (11.76 g) at room temperature. The reaction solution was stirred at 80° C. for 4 hours, and cooled to room temperature. Water (200 mL) was added to the mixture, and the mixture was extracted with chloroform (150 mL×3). The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residual solid was recrystallized from ethanol, collected by filtration, and dried to give 2-methyl-6-nitroquinoxaline (7.38 g, 60%) as red solid.

reactant | 4-nitro-1,2-phenylenediamine | 10.0 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | pyruvic aldehyde | 11.76 g | CC(=O)C=O | C3H4O2
solvent | water | 150 mL | O | H2O
solvent | Water | 200 mL | O | H2O
product | 2-methyl-6-nitroquinoxaline | 7.38 g, 60% | CC1=NC2=CC=C(C=C2N=C1)[N+](=O)[O-] | C9H7N3O2
